US06680313B2
a) 7-(Pyridin-2-yl)methylthioimidazo[5,1-b]thiazole
Triphenylphosphine (2.95 g) and 3.73 g of carbon tetrabromide were added to a solution of 0.724 ml of (pyridin-2-yl)methanol in 40 ml of dichloromethane under ice cooling, and the mixture was stirred at that temperature for 1.5 hr. The reaction solution was purified by column chromatography on silica gel (dichloromethane:methanol=30:1) to prepare 2-bromomethylpyridine. A solution of 990 mg of 7-acetylthioimidazo[5,1-b]thiazole in 5 ml of methanol was cooled in ice. A 1.018 M sodium methoxide/methanol solution (5.4 ml) was added to the cooled solution, and the mixture was stirred for 30 min. The above solution of 2-bromomethylpyridine in 5 ml of dichloromethane was added thereto, and the mixture was stirred at room temperature for 20 hr. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate three times. The organic layer was washed with saturated brine, and was then dried over anhydrous magnesium sulfate. The solvent was removed by distillation, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to prepare 776 mg of 7-(pyridin-2-yl)methylthioimidazo[5,1-b]thiazole.

reactant | Triphenylphosphine | 2.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 3.73 g | C(Br)(Br)(Br)Br | CBr4
reactant | (pyridin-2-yl)methanol | 0.724 ml | N1=C(C=CC=C1)CO | C6H7NO
reactant | 7-acetylthioimidazo[5,1-b]thiazole | 990 mg | C(C)(=O)SC=1N=CN2C1SC=C2 | C7H6N2OS2
reactant | sodium methoxide methanol | 1.018 M, 5.4 ml | C[O-].[Na+].CO
reactant | 2-bromomethylpyridine | BrCC1=NC=CC=C1 | C6H6BrN
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 7-(Pyridin-2-yl)methylthioimidazo[5,1-b]thiazole | N1=C(C=CC=C1)CSC=1N=CN2C1SC=C2 | C11H9N3S2
